US04568376
(3-Trifluoromethylphenyl)-methoxyacetyl-acetonitrile
In this example 5.6 grams of metallic sodium was added to 120 ml of anhydrous ethanol at room temperature under a nitrogen atmosphere resulting in the evolution of hydrogen. After evolution of hydrogen was completed a mixture containing 30 g of (3-trifluoromethylphenyl)-acetonitrile and 18.5 g of methyl methoxyacetate in anhydrous ethanol was added and the resulting mixture refluxed for 3 to 4 hours. The mixture was then added to 300 ml of water and extracted three times with petroleum ether. The remaining aqueous phase was acidified with aqueous 10% hydrochloric acid to about pH 1 and extracted three times with ethyl ether. The ethyl ether extracts were combined, washed twice with saturated aqueous sodium bicarbonate, dried over magnesium sulfate and concentrated by evaporation. The concentrate was evaporated under high vacuum affording an oil which was triturated with ethyl ether. This mixture was then filtered to remove solids and the filtrate evaporated under vacuum affording 36.9 g of the title compound as a brown solid.

reactant | hydrogen | [H][H] | H2
reactant | (3-trifluoromethylphenyl)-acetonitrile | 30 g | FC(C=1C=C(C=CC1)CC#N)(F)F | C9H6F3N
reactant | methyl methoxyacetate | 18.5 g | COCC(=O)OC | C4H8O3
reactant | water | 300 ml | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | (3-Trifluoromethylphenyl)-methoxyacetyl-acetonitrile | 36.9 g | FC(C=1C=C(C=CC1)C(C#N)C(COC)=O)(F)F | C12H10F3NO2
